US09193693B2
2-(4-Fluorophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 2-(4-fluorophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (40 mg, 0.11 mmol, 1.00 equiv) in methanol (10 mL). Then a solution of sodium hydroxide (22.67 mg, 0.57 mmol, 5.00 equiv) in water (1 mL) was added. The resulting solution was stirred for 5 h at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum. The reaction was then quenched by the addition of 20 mL of water. The pH value of the aqueous solution was adjusted to 4-5 with aq. hydrogen chloride (1 mol/L). The resulting solids were collected by filtration. This resulted in 30 mg (76%) of 2-(4-fluorophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 2-(4-fluorophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.11 mmol, 40 mg, 1.00 equiv | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C20H20FN3O2
reactant | sodium hydroxide | 0.57 mmol, 22.67 mg, 5.00 equiv | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | 2-(4-Fluorophenyl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)O | C19H18FN3O2
